US08183246B2
(3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropoxy)acetic acid tert.-butyl ester
Add 1.14 ml of 12.5 N sodium hydroxide solution to a solution of 500 mg (1.28 mmol) 3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropan-1-ol in 10 ml toluene at 70° C. After adding 44 mg (0.13 mmol) tetra-n-butylammonium hydrogensulphate and 500 mg (2.56 mmol) tert.-butyl bromoacetate, stir the reaction mixture for 20 h at 70° C. After cooling to room temperature, adjust to pH 7 with concentrated hydrochloric acid and extract three times with 50 ml dichloromethane each time. Wash the combined organic extracts with satd. aqueous sodium chloride solution, dry over sodium sulphate, filter, and concentrate by vacuum evaporation. Purify the raw product by preparative RP-HPLC (gradient: water/acetonitrile). 298 mg (46% of theor.) of the desired product is obtained as racemate.

reactant | sodium hydroxide | 12.5 N, 1.14 ml | [OH-].[Na+]
reactant | 3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropan-1-ol | 1.28 mmol, 500 mg | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OCC(CO)C)C2=CC=CC=C2 | C23H22N2O4
reactant | tert.-butyl bromoacetate | 2.56 mmol, 500 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium hydrogensulphate | 0.13 mmol, 44 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropoxy)acetic acid tert.-butyl ester | C(C)(C)(C)OC(COCC(COC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)C)=O | C29H32N2O6
